US06521643B1
To a suspension of N-(5-(acetylamino-(4-methylpyridin-2-yl)-methyl)-4-methylthiazol-2-yl)guanidine (176 mg) in methanol (8.8 ml) was added hydrochloric acid (6 N, 4.6 ml), and the mixture was stirred at 90° C. for 4 hours. The mixture was evaporated under reduced pressure. The residue was recrystallized from ethanol to give N-(5-(amino-(4-methylpyridin-2-yl)methyl)-4-methylthiazol-2-yl)-guanidine trihydrochloride (141 mg).

reactant | N-(5-(acetylamino-(4-methylpyridin-2-yl)-methyl)-4-methylthiazol-2-yl)guanidine | 176 mg | C(C)(=O)NC(C1=C(N=C(S1)NC(=N)N)C)C1=NC=CC(=C1)C | C14H18N6OS
reactant | hydrochloric acid | 6 N, 4.6 ml | Cl | ClH
solvent | methanol | 8.8 ml | CO | CH4O
product | N-(5-(amino-(4-methylpyridin-2-yl)methyl)-4-methylthiazol-2-yl)-guanidine trihydrochloride | 141 mg | Cl.Cl.Cl.NC(C1=C(N=C(S1)NC(=N)N)C)C1=NC=CC(=C1)C | InChI=1S/C12H16N6S.3ClH/c1-6-3-4-16-8(5-6)9(13)10-7(2)17-12(19-10)18-11(14)15;;;/h3-5,9H,13H2,1-2H3,(H4,14,15,17,18);3*1H
